US08029919B2
a) 10-Mesitylphenothiazine-3-carbaldehyde
3.66 g (23.6 mmol) of 99% phosphorus oxychloride were added dropwise at 20° C. with stirring and ice cooling to a solution of 5.00 g (15.8 mmol) of 10-mesitylphenothiazine and 3.23 g (23.6 mmol) of 99% N-methylformanilide in 5 ml of o-dichlorobenzene within 15 min. After stirring at 20° C. for 30 min, the reaction solution was heated to 70° C. and kept at this temperature for 4 hours. The reaction solution was admixed with a solution of 16 g of sodium acetate in 35 ml of water within 5 min. After stirring at 70° C. for 1 hour, N-methylformanilide and o-dichlorobenzene were removed with a steam distillation. 250 ml of methylene chloride were added to the distillation bottoms. The organic phase was removed and filtered through silica gel. The filtrate was concentrated and dried at 40° C. under reduced pressure. 5.05 g (93% of theory) of analytically pure greenish powder having a melting point of 136-140° C. were obtained.

reactant | phosphorus oxychloride | 23.6 mmol, 3.66 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 10-mesitylphenothiazine | 15.8 mmol, 5.00 g | C1(=C(C(=CC(=C1)C)C)N1C2=CC=CC=C2SC=2C=CC=CC12)C | C21H19NS
reactant | N-methylformanilide | 23.6 mmol, 3.23 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | sodium acetate | 16 g | C(C)(=O)[O-].[Na+]
solvent | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | water | 35 ml | O | H2O
product | 10-Mesitylphenothiazine-3-carbaldehyde | C1(=C(C(=CC(=C1)C)C)N1C2=CC=CC=C2SC=2C=C(C=CC12)C=O)C | C22H19NOS
